.title KiCad schematic
C1 Net-_C1-Pad1_ NC_01 10n
C2 Net-_C2-Pad1_ Net-_C1-Pad1_ 10n
C3 Net-_C3-Pad1_ Net-_C2-Pad1_ 10n
C4 Net-_C4-Pad1_ Net-_C3-Pad1_ 10n
C5 Net-_C5-Pad1_ Net-_C4-Pad1_ 10n
C6 Net-_C6-Pad1_ Net-_C5-Pad1_ 10n
C7 Net-_C7-Pad1_ Net-_C6-Pad1_ 10n
C8 /multiplier/OUT1 Net-_C7-Pad1_ 10n
D1 Net-_C1-Pad1_ /multiplier/HV0 R3000
D2 /multiplier/HV1 Net-_C1-Pad1_ R3000
D3 Net-_C2-Pad1_ /multiplier/HV1 R3000
D4 Net-_C12-Pad1_ Net-_C2-Pad1_ R3000
D5 Net-_C3-Pad1_ Net-_C12-Pad1_ R3000
D6 Net-_C13-Pad1_ Net-_C3-Pad1_ R3000
D7 Net-_C4-Pad1_ Net-_C13-Pad1_ R3000
D8 Net-_C14-Pad1_ Net-_C4-Pad1_ R3000
D9 Net-_C5-Pad1_ Net-_C14-Pad1_ R3000
D10 Net-_C15-Pad1_ Net-_C5-Pad1_ R3000
D11 Net-_C6-Pad1_ Net-_C15-Pad1_ R3000
D12 Net-_C16-Pad1_ Net-_C6-Pad1_ R3000
D13 Net-_C7-Pad1_ Net-_C16-Pad1_ R3000
D14 /multiplier/HV7 Net-_C7-Pad1_ R3000
D15 /multiplier/OUT1 /multiplier/HV7 R3000
D16 /multiplier/HV8 /multiplier/OUT1 R3000
C11 /multiplier/HV1 /multiplier/HV0 10n
C12 Net-_C12-Pad1_ /multiplier/HV1 10n
C13 Net-_C13-Pad1_ Net-_C12-Pad1_ 10n
C14 Net-_C14-Pad1_ Net-_C13-Pad1_ 10n
C15 Net-_C15-Pad1_ Net-_C14-Pad1_ 10n
C16 Net-_C16-Pad1_ Net-_C15-Pad1_ 10n
C17 /multiplier/HV7 Net-_C16-Pad1_ 10n
C18 /multiplier/HV8 /multiplier/HV7 10n
D21 Net-_C21-Pad1_ /multiplier/HV0 R3000
D22 /multiplier/HV1 Net-_C21-Pad1_ R3000
D23 Net-_C22-Pad1_ /multiplier/HV1 R3000
D24 Net-_C12-Pad1_ Net-_C22-Pad1_ R3000
D25 Net-_C23-Pad1_ Net-_C12-Pad1_ R3000
D26 Net-_C13-Pad1_ Net-_C23-Pad1_ R3000
D27 Net-_C24-Pad1_ Net-_C13-Pad1_ R3000
D28 Net-_C14-Pad1_ Net-_C24-Pad1_ R3000
D29 Net-_C25-Pad1_ Net-_C14-Pad1_ R3000
D30 Net-_C15-Pad1_ Net-_C25-Pad1_ R3000
D31 Net-_C26-Pad1_ Net-_C15-Pad1_ R3000
D32 Net-_C16-Pad1_ Net-_C26-Pad1_ R3000
D33 Net-_C27-Pad1_ Net-_C16-Pad1_ R3000
D34 /multiplier/HV7 Net-_C27-Pad1_ R3000
D35 /multiplier/OUT2 /multiplier/HV7 R3000
D36 /multiplier/HV8 /multiplier/OUT2 R3000
C21 Net-_C21-Pad1_ NC_02 10n
C22 Net-_C22-Pad1_ Net-_C21-Pad1_ 10n
C23 Net-_C23-Pad1_ Net-_C22-Pad1_ 10n
C24 Net-_C24-Pad1_ Net-_C23-Pad1_ 10n
C25 Net-_C25-Pad1_ Net-_C24-Pad1_ 10n
C26 Net-_C26-Pad1_ Net-_C25-Pad1_ 10n
C27 Net-_C27-Pad1_ Net-_C26-Pad1_ 10n
C28 /multiplier/OUT2 Net-_C27-Pad1_ 10n
IN1 NC_03 Conn_01x01
HV0 NC_04 Conn_01x01
IN2 NC_05 Conn_01x01
OUT1 NC_06 Conn_01x01
HV7 NC_07 Conn_01x01
HV8 NC_08 Conn_01x01
OUT2 NC_09 Conn_01x01
HV1 NC_10 Conn_01x01
.end
